US06765012B2
3-{[4-(3-Diethylamino-propoxy)-phenylamino]-methylene}-5-fluoro-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-diethylamino-propoxy)-phenylamine (161 mg, 1.3 equiv.) and 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (100 mg, 0.56 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (88 mg, 41%).

reactant | 4-(3-diethylamino-propoxy)-phenylamine | 161 mg, 1.3 equiv. | C(C)N(CCCOC1=CC=C(C=C1)N)CC | C13H22N2O
reactant | 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 0.56 mmol, 100 mg, 1 equiv. | FC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6FNO2
product | 3-{[4-(3-Diethylamino-propoxy)-phenylamino]-methylene}-5-fluoro-1,3-dihydro-indol-2-one | 88 mg, 41% | C(C)N(CCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=C(C=C12)F)=O)CC | C22H26FN3O2
